US05348965
To a solution of 2-(2-chloroethoxy)ethanol (15.3 g, 123 mmol) in toluene (100 ml) kept at 5° C. was added triethylamine (50 g, 500 mmol). A solution of methanesulfonyl chloride (28 g, 245 mmol) in toluene (50 ml) was carefully added keeping the temperature around 5° C. When addition was complete the reaction mixture was stirred at 5° C. for 45 minutes and then 75 minutes at ambient temperature. Water (100 ml) was added and the mixture was stirred for 15 minutes. The phases were separated and the organic phase was washed with water, brine and dried over magnesium sulphate. The solvent was evaporated in vacuo to give crude 2-(2-chloroethoxy)ethyl mesylate as an oil.

reactant | 2-(2-chloroethoxy)ethanol | 123 mmol, 15.3 g | ClCCOCCO | C4H9ClO2
reactant | triethylamine | 500 mmol, 50 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 245 mmol, 28 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 100 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-chloroethoxy)ethyl mesylate | S(C)(=O)(=O)OCCOCCCl | C5H11ClO4S
